US07176242B2
Methyl 1H-indole-6-carboxylate (4.17 g) was dissolved in DMSO (30 mL), and potassium tert-butoxide (2.93 g) was added. The mixture was stirred for ten min at room temperature. Iodobutane (3.0 mL) was added. The mixture was allowed to stir for three additional hours. The mixture was partitioned between ethyl acetate and water and brine, dried over sodium sulfate, filtered, and concentrated to give methyl 1-butyl-1H-indole-6-carboxylate (4.53 g). MS (ESI+) for C14H17NO2+H1 m/z 232.12 (M+H)+.

reactant | Methyl 1H-indole-6-carboxylate | 4.17 g | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | potassium tert-butoxide | 2.93 g | CC(C)([O-])C.[K+]
reactant | Iodobutane | 3.0 mL | ICCCC | C4H9I
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | methyl 1-butyl-1H-indole-6-carboxylate | 4.53 g | C(CCC)N1C=CC2=CC=C(C=C12)C(=O)OC | C14H17NO2
